US04282227
A mixture of 4 g. (0.026 m.) of 2-methylbenzothiophene, 4.7 g. (0.027 m.) of N-bromosuccinimide, a catalytic amount of benzoyl peroxide and 250 ml. of carbon tetrachloride was stirred under irradiation for 30 minutes. The cooled and filtered mixture was evaporated to give an oily 2-bromomethylbenzothiophene.

reactant | 2-methylbenzothiophene | CC=1SC2=C(C1)C=CC=C2 | C9H8S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethylbenzothiophene | BrCC=1SC2=C(C1)C=CC=C2 | C9H7BrS
